US09422281B2
A mixture of (S)-isopropyl 4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.050 g, 0.141 mmol), 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)ethanol (0.050 g, 0.211 mmol), chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) (XPhos 2nd generation precatalyst) (5.54 mg, 7.04 μmol), and cesium carbonate (0.138 g, 0.422 mmol) in 1,4-dioxane (2.0 mL) and water (0.40 mL) was stirred in the microwave at 100° C. for 1 h. The reaction mixture was filtered through Celite and concentrated to afford a yellow oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 0-10% methanol-ethyl acetate) to afford (S)-isopropyl 4-acetyl-7-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.052 g, 96%) as an off-white solid.

reactant | (S)-isopropyl 4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.141 mmol, 0.050 g | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC(C)C)C | C15H19BrN2O3
reactant | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)ethanol | 0.211 mmol, 0.050 g | CC1(OB(OC1(C)C)C=1C=NN(C1)CCO)C | C11H19BN2O3
reactant | cesium carbonate | 0.422 mmol, 0.138 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.40 mL | O | H2O
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) | 7.04 μmol, 5.54 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | (S)-isopropyl 4-acetyl-7-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.052 g, 96% | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NN(C1)CCO)C(=O)OC(C)C)C | C20H26N4O4
